US08349880B2
Step AAE (1): Followed the method of B. Miller and H.-S. Wong Tetrahedron 1972, 28, 2369. Bromine (0.651 mL, 12.6 mmol) in was added dropwise to a solution of cyclohexane-1,2-dione (1.35 g, 12.0 mmol) in CCl4 (30 mL) at 0° C. The reaction mixture was allowed to warm to rt. The resulting solution was concentrated in vacuo to afford 3-bromocyclohexane-1,2-dione. The crude product, which is prone to decomposition, was used for subsequent chemistry without purification or characterization.

reactant | Bromine | 12.6 mmol, 0.651 mL | BrBr | Br2
reactant | cyclohexane-1,2-dione | 12.0 mmol, 1.35 g | C1(C(CCCC1)=O)=O | C6H8O2
solvent | CCl4 | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromocyclohexane-1,2-dione | BrC1C(C(CCC1)=O)=O | C6H7BrO2
